Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
Shortness of breath, abdominal distention
 
Major Surgical or Invasive Procedure:
Right heart catheterization ___
Coronary angiogram ___

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a past medical history
of recently diagnosed HFrEF (36%) of uncertain etiology who
presents with weight gain, abdominal distention, shortness of
breath.

The patient's history was obtained from her and from Dr. ___. The patient initially presented on ___ with six
months of progressive DOE and two weeks of PND, ___ swelling, and
abd bloating. She underwent workup with CTA chest, small
bilateral pleural effusions, and symmetric prominent hilar and
mediastinal LN thought to be reactive. NT-proBNP 3556 with
negative trops. She was admitted to ___ in late ___ fro new
EF. She was diursed with 20mg IV Lasix, started on lisinopril 
and
furosemide. She left against medical advice for child-care
related issues on hospital day 2. She later established care 
with
HCA. She had low TSH and low free T4 and biotin was held. TTE on
___ showed global LV hypokinesis with EF 36% with 1+ AI and 2+
MR. ___ established care with Dr. ___ in ___. Her lisinopril 
has
been up-titrated and carvedilol and spironolactone. She was seen
___ and was having bloating. Her lisinopril was increased to
30, coreg to 12.5 BID and furosemide to 30 daily. She has not
been able to complete evaluate for coronary artery disease yet 
as
an outpatient.

On interview, the patient reports significant weight gain over
the past three weeks. She reports her normal weight is 125-128
and her weight was 150 at home. On our scale weight ___ was
132 and ___ was 145.5 pounds. She is feeling tired since
increasing the coreg. She endorses that she is able to walk one
mile but has orthopnea, PND. Her biggest complaint is abdominal
distention. 

She was seen by Dr. ___ in clinic on ___ and referred in to 
the
inpatient service. 
 
 
Past Medical History:
PAST MEDICAL AND SURGICAL HISTORY:  
Heart failure with reduced ejection fraction (36%)
GERD 
ADHD
HYPOTHYROIDISM  
-Appendectomy late ___ 
 
Social History:
___
Family History:
FAMILY HISTORY:  
-grandfather with a heart problems, no other cardiac ___
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
============================
VS:  24 HR Data (last updated ___ @ 1732)
    Temp: 98.7 (Tm 99.0), BP: 132/84 (124-132/84-85), HR: 91
(91-113), RR: 16 (___), O2 sat: 94% (94-97), O2 delivery: Ra,
Wt: 145.5 lb/66 kg  

GENERAL: Well developed, well nourished noin NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple. JVP of 10 cm.  
CARDIAC: Tachycardic rate and rhythm. Normal S1, S2. No murmurs,
rubs, or gallops. No thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, moderately distended. No 
hepatomegaly.
No splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis with
trace
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE PHYSICAL EXAMINATION:  
============================
VS: 
24 HR Data (last updated ___ @ 845)
    Temp: 97.6 (Tm 98.7), BP: 111/71 (94-115/56-77), HR: 58
(55-68), RR: 18 (___), O2 sat: 91% (91-100), O2 delivery: Ra,
Wt: 145.72 lb/66.1 kg  

Fluid Balance (last updated ___ @ 321) 
  Last 8 hours  Total cumulative -600ml
    IN: Total 0ml
    OUT:  Total 600ml, Urine Amt 600ml
  Last 24 hours  Total cumulative -1120ml
    IN: Total 1030ml, PO Amt 1030ml
    OUT:  Total 2150ml, Urine Amt 2150ml  

GENERAL: Well developed, well nourished noin NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: Supple. JVP of 9-10 cm.  
CARDIAC: Tachycardic rate and rhythm. Normal S1, S2. No murmurs,
rubs, or gallops. No thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, mildly distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis with
trace edema
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
 
Pertinent Results:
Admission labs:
=============
___ 02:48PM BLOOD WBC-7.6 RBC-3.75* Hgb-13.5 Hct-37.4 
MCV-100* MCH-36.0* MCHC-36.1 RDW-14.5 RDWSD-53.1* Plt ___
___ 02:48PM BLOOD Neuts-66.5 ___ Monos-5.3 Eos-0.5* 
Baso-0.7 Im ___ AbsNeut-5.06 AbsLymp-2.03 AbsMono-0.40 
AbsEos-0.04 AbsBaso-0.05
___ 02:48PM BLOOD ___ PTT-28.4 ___
___ 04:23PM BLOOD UreaN-8 Creat-0.7 Na-137 K-3.6 Cl-93* 
HCO3-22 AnGap-22*
___ 02:48PM BLOOD ALT-15 AST-30 AlkPhos-75 TotBili-0.2
___ 02:48PM BLOOD proBNP-68 discharge:

___ 02:48PM BLOOD Albumin-4.7 Calcium-8.5 Phos-3.3 Mg-1.8
___ 02:48PM BLOOD TSH-1.4
___ 02:48PM BLOOD T3-110 Free T4-1.0

Other pertinent labs:
===============
___ 09:28AM BLOOD Cortsol-22.8*

Imaging/studies:
============
Right heart cath/coronary angiogram ___:
Coronary Description
The left main, left anterior descending, circumflex and right 
coronary artery have no angiographically
significant coronary abnormalities.
Interventional Details
Complications: There were no clinically significant 
complications.
Findings
• Normal left and right heart filling pressures.
• Preserved cardiac function.
• No angiographically apparent coronary artery disease.

Abdominal ultrasound ___:
FINDINGS: 
 
LIVER: The hepatic parenchyma appears within normal limits.  The 
contour of
the liver is smooth.  There is no focal liver mass.  There is a 
geographic
area of hyperechogenicity adjacent to the gallbladder fossa and 
porta hepatis
which likely represents focal steatosis, stable from prior exam. 
The main
portal vein is patent with hepatopetal flow.  There is no 
ascites.
 
BILE DUCTS: There is no intrahepatic biliary dilation.
  CHD: 0.3 cm
 
GALLBLADDER: The gallbladder is collapsed with no definite 
evidence of stones
or gallbladder wall thickening.
 
PANCREAS: The pancreas is not well visualized, largely obscured 
by overlying
bowel gas.
 
SPLEEN: Normal echogenicity.
  Spleen length: 12.8 cm
 
KIDNEYS: Normal cortical echogenicity and corticomedullary 
differentiation is
seen bilaterally.  There is no evidence of masses, stones, or 
hydronephrosis
in the kidneys.
  Right kidney: 11.3 cm
  Left kidney: 12.2 cm
 
RETROPERITONEUM:  The visualized portions of aorta and IVC are 
within normal

X-ray (PA and lateral) ___:
FINDINGS: 
There is no focal consolidation, pleural effusion or 
pneumothorax identified. 
No evidence of pulmonary edema.

Discharge labs:
============
___ 08:32AM BLOOD WBC-5.5 RBC-3.78* Hgb-13.6 Hct-38.4 
MCV-102* MCH-36.0* MCHC-35.4 RDW-14.1 RDWSD-53.1* Plt ___
___ 08:32AM BLOOD Glucose-90 UreaN-8 Creat-0.6 Na-137 K-4.7 
Cl-99 HCO3-27 AnGap-11
___ 08:32AM BLOOD Calcium-9.4 Phos-3.6 Mg-2.2
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a past medical history
of recently diagnosed HFrEF (36%) of uncertain etiology who
presents with weight gain, abdominal distention, shortness of
breath suggestive of an acute heart failure exacerbation.

# CORONARIES: Unknown
# PUMP: EF 36% (___)
# RHYTHM: Sinus

ACTIVE ISSUES: 
============== 
# Acute heart failure with reduce ejection fraction:
Recent diagnosis of heart failure in ___ of uncertain 
etiology with NHBK and afterload up-titration as an outpatient. 
Patient never received proper follow-up. Exam on admission 
notable for volume overload, tachycardia, but warm, well 
perfused. She was referred from clinic for diuresis and 
expedited workup including RHC/LHC for evaluation of cardiac 
output and to rule out coronary artery disease. proBNP only 68, 
however patient with mildly elevated JVP and abdominal 
distention on admission. Given lasix 40mg IV qd with adequate 
response. Abdominal ultrasound was obtained given low BNP and 
was negative for ascites or an acute process. RHC/LHC showed 
normal filling pressures, no obstructive coronary disease. 
Continued home lisinopril 30mg daily for afterload. Continued 
home spironolactone at 25mg qd. Decreased carvedilol to 6.25 BID 
(home 12.5mg bid), as patient was only taking once a day. 
Discharge diuresis with PO lasix 40mg qd

CHRONIC/STABLE ISSUES:
===================
# Hypothyroidism: 
Low TSH and T4 on previous admission, indicating secondary
hypothyroidism. TFTs have normalized after stopping biotin in 
the
past few months. Recommend follow-up as outpatient

#Hypercortisolism - cortisol slightly high at 22.8. Likely ___
stress response during admission, can f/u as outpt

TRANSITION ISSUES: 
================
Discharge creatinine 0.6
Discharge weight 145.72 lb

[] Diuresis - monitor weights as outpatient with titration of 
lasix as needed
[] Hypothyroidism - f/u TFTs as patient with low TSH and T4 on 
previous admission, which normalized after stopping biotin 
[] Bloating - consider GI follow up if bloating persistent after 
optimization of HF management
[] Hypercortisolism - slightly high on admission, likely ___ 
stress response. Would repeat as outpatient

MEDICATION CHANGES
[] increased furosemide 30mg daily to 40mg daily
[] Decreased carvedilol from 12.5mg BID to 6.25 BID

#CODE STATUS: Full 
#CONTACT: ___ 
___: friend Phone: ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 30 mg PO DAILY 
2. Carvedilol 12.5 mg PO BID 
3. Furosemide 30 mg PO DAILY 
4. Spironolactone 25 mg PO DAILY 

 
Discharge Medications:
1.  Carvedilol 6.25 mg PO BID 
RX *carvedilol 6.25 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
2.  Furosemide 40 mg PO DAILY 
RX *furosemide 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Lisinopril 30 mg PO DAILY  
4.  Spironolactone 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
===============
Acute on chronic heart failure with reduced ejection fraction

Secondary diagnoses
================
Hypothyroidism
Hypercortisolism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

Why were you admitted to the hospital?
- You were admitted to the hospital because you were feeling 
bloated, which we were concerned was due to your heart failure. 
Please see below for more information on your hospitalization. 
It was a pleasure participating in your care!    

What happened while you were in the hospital?  
- We gave you water pills to remove any extra fluid from your 
heart. 
-You had a procedure called a coronary angiogram to look at the 
arteries in your heart.  This was normal, and did not show any 
narrowing or blockages. You also had a procedure called a right 
heart catheterization to measure the pressures heart.  This was 
also normal, without any elevation in pressure.
-You also received an abdominal ultrasound which did not show 
any abnormalities
-Given these normal tests and blood tests, we felt confident 
your heart was no longer causing your abdominal symptoms.
-Your pain improved with medications and you were ready to leave 
the hospital.

What should you do after leaving the hospital?  
-  Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 

-Your weight at discharge is 145.72 lb. Please weigh yourself 
today at home and use this as your new baseline  
-Please weigh yourself every day in the morning. Call your 
doctor if your weight goes up by more than 3 lbs.  

We wish you the best!
- Your ___ Healthcare Team
 
Followup Instructions:
___